US07390908B2
Preparation of N-(5-nitropyridin-2-yl)-3-[(2-chlorobenzyl)oxy]-5-[(2-cyanobenzyl)oxy]benzamide
A solution of N-(5-nitropyridin-2-yl)-3-[(2-cyanobenzyl)oxy]-5-hydroxybenzamide (195 mg) in DMF (3 ml) was treated with Ag2CO3 (165 mg) and 2-Chlorobenzyl bromide (0.073 ml). Heated to 85° C. and stirred for 17 hours under Nitrogen. Allowed to cool to ambient temperature. Water (25 ml) added. Extracted with ethyl acetate (50 ml), washed with brine (25 ml), dried over MgSO4. Volatile material was removed by evaporation to give a solid, which was purified by flash chromatography on silica eluted with 0-5% ethyl acetate in dichloromethane to give the title compound (43 mg) as a solid, 1H NMR δ (d6-DMSO): 5.20 (s,2H), 5.33 (s, 2H), 6.96 (s, 1H), 7.40 (m, 5H), 7.57 (m,2H), 7.72 (m, 2H), 7.90 (d, 1H), 8.40 (d, 1H), 8.64 (dd, 1H), 9.22 (s, 1H), 11.50 (s,1H). LCMS rt=3.27 min (97.4%), ES+515.50 (M+H)+.

reactant | N-(5-nitropyridin-2-yl)-3-[(2-cyanobenzyl)oxy]-5-hydroxybenzamide | 195 mg | [N+](=O)([O-])C=1C=CC(=NC1)NC(C1=CC(=CC(=C1)O)OCC1=C(C=CC=C1)C#N)=O | C20H14N4O5
reactant | 2-Chlorobenzyl bromide | 0.073 ml | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
reactant | Water | 25 ml | O | H2O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-(5-nitropyridin-2-yl)-3-[(2-chlorobenzyl)oxy]-5-[(2-cyanobenzyl)oxy]benzamide | 43 mg | [N+](=O)([O-])C=1C=CC(=NC1)NC(C1=CC(=CC(=C1)OCC1=C(C=CC=C1)C#N)OCC1=C(C=CC=C1)Cl)=O | C27H19ClN4O5
